* C:\Users\twsoc\ECE_455\ECE_455_Briain_Stimulator\Simulation\Current_Source.asc
XU1 N010 N007 SUPPLY N_SUPPLY N005 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 N008 N011 SUPPLY N_SUPPLY N011 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N005 N007 20k
R2 N010 P001 100k
R3 N011 N010 20k
R4 N007 N006 100k
R5 N008 N005 100
R6 N009 0 10k
V1 N006 0 2.5
V2 P001 0 SINE(2.5 2.5 1000)
V3 SUPPLY 0 30
V4 N_SUPPLY 0 -30
L1 N009 N008 470µ
XU3 0 N004 SUPPLY N_SUPPLY N001 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R7 N003 N004 100k
R8 N004 N001 50k
V5 att 0 PWL(0 0 0.01 -2.5)
J1 N003 att 0 NJF
V6 N002 0 SINE(2.5 2.5 1000)
R9 N003 N002 50k
R10 N001 0 10k
J2 N003 att 0 NJF
.model NJF NJF
.model PJF PJF
.lib C:\Users\twsoc\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0 10m 0
.lib UniversalOpAmp1.lib
.backanno
.end
